US08389527B2
6-Chloro-8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-3-carboxylic acid (150 mg, 0.37 mmol) in SOCl2 (2 mL) was heated at 60° C. for 1 hour. The reaction mixture was concentrated, dried under reduced pressure and dissolved in DCM (3 mL). 2-Methylpyridin-4-amine (45 mg, 0.41 mmol), and TEA (0.16 mL, 1.11 mmol) were added and the reaction mixture was stirred at room temperature for 12 hours, concentrated and then purified by silica gel chromatography (5% MeOH in DCM) to obtain 6-chloro-8-((4-methoxybenzyl)(phenyl)amino)-N-(2-methylpyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (102 mg, 55% yield) as a yellow solid. LC/MS (Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2 min with 1 min hold time, Flow rate=5 mL/min, detection at 254 nm, Solvent A: 10% methanol/90% water/0.1% TFA; Solvent B: 10% water/90% methanol/0.1% TFA). Rt=3.263 minutes. [M+H]=499.06.

reactant | 6-Chloro-8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-3-carboxylic acid | 0.37 mmol, 150 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)O)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C21H17ClN4O3
reactant | 2-Methylpyridin-4-amine | 0.41 mmol, 45 mg | CC1=NC=CC(=C1)N | C6H8N2
solvent | SOCl2 | 2 mL | O=S(Cl)Cl | Cl2OS
product | 6-chloro-8-((4-methoxybenzyl)(phenyl)amino)-N-(2-methylpyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 102 mg, 55% yield | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)C)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C27H23ClN6O2
